US08044052B2
tert-Butyl 4-(3-(5-(azetidin-1-yl)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate
To a mixture of sodium-tert-butoxide (0.18 g, 1.87 mmol) in toluene (2 mL) cooled to 0° C. under an inert atmosphere was added tert-butyl 4-(3-(5-bromopyridin-2-yloxy)benzylidene)piperidine-1-carboxylate (0.6 g, 1.34 mmol). The mixture was degassed for 20 min. Palladium acetate (0.02 g, 0.089 mmol) and (2-biphenyl)di-tert-butylphosphine (0.06 g, 0.2 mmol) was added and the mixture was degassed for 10 min. Azetidine (0.092 g, 1.6 mmol) was added and the reaction was heated at 85° C. for 15 h. The reaction was cooled and then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over sodium sulfate and evaporated to dryness. The residue was purified by silica gel column chromatography (5% ethyl acetate/hexane) to give the title compound (0.135 g, 23.7%). 1H NMR (500 MHz, DMSO-d6): δ 7.49 (s, 1H), 6.92 (d, J=7.7 Hz, 1H), 6.81 (m, 3H), 6.80 (d, J=8.65 Hz, 1H), 6.31 (s, 1H), 3.88 (t, J=7.15 Hz, 4H), 3.48 (m, 2H), 3.38 (m, 2H), 2.40 (m, 4H), 2.30 (m, 2H), 1.47 (s, 9H).

reactant | sodium-tert-butoxide | 1.87 mmol, 0.18 g | CC(C)([O-])C.[Na+]
reactant | tert-butyl 4-(3-(5-bromopyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 1.34 mmol, 0.6 g | BrC=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C22H25BrN2O3
reactant | (2-biphenyl)di-tert-butylphosphine | 0.2 mmol, 0.06 g | CC(C)(C)P(C1=CC=CC=C1C2=CC=CC=C2)C(C)(C)C | C20H27P
reactant | Azetidine | 1.6 mmol, 0.092 g | N1CCC1 | C3H7N
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium acetate | 0.089 mmol, 0.02 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-Butyl 4-(3-(5-(azetidin-1-yl)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 0.135 g, 23.7% | N1(CCC1)C=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C25H31N3O3
